US07183293B2
(±)-2-(4-Aminomethyl-3-fluoro-phenoxy)-propionic acid tert-butyl ester of Formula (5.0.11)
(±)-2-(4-Cyano-3-fluoro-phenoxy)-propionic acid tert-butyl ester (1.77 g, 6.7 mmol) was shaken on a Parr shaker under 40 psi hydrogen for 30 min, using palladium hydroxide on carbon (1 g, 30% Pd by wt) in 200 mL anhydrous methanol. The reaction mixture was filtered through sintered glass, and solvents removed in vacuo to afford 1.71 g colorless oil (95% yield).

reactant | (±)-2-(4-Cyano-3-fluoro-phenoxy)-propionic acid tert-butyl ester | 6.7 mmol, 1.77 g | C(C)(C)(C)OC(C(C)OC1=CC(=C(C=C1)C#N)F)=O | C14H16FNO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 1 g | [OH-].[OH-].[Pd+2]
product | (±)-2-(4-Aminomethyl-3-fluoro-phenoxy)-propionic acid tert-butyl ester | 1.71 g, 95% yield | C(C)(C)(C)OC(C(C)OC1=CC(=C(C=C1)CN)F)=O | C14H20FNO3
